US07291619B2
(R)-N-{1-(4-Chlorobenzyl)-2-oxo-2-[4-(2-([1,2,4]triazol-1-yl)methylphenyl)-piperazin-1-yl]-ethyl}-2-(2-isopropyl-2,3-dihydro-1H-isoindol-1-yl)-acetamide (isomer 1)
To a solution of 2-amino-3-(4-chloro-phenyl)-1-[4-(2-[1,2,4]triazol-1-ylmethyl-phenyl)-piperazin-1-yl]-propan-1-one trifluoroacetyl carboxylate salt(0.30 g, 0.55 mmol), (2-isopropyl-2,3-dihydro-1H-isoindol-1-yl)-acetic acid (0.12 g, 0.55 mmol), HATU (0.21 g, 0.55 mmol) in DCM was added DIPEA (0.19 mL, 1.13 mmol). After about 3 hours, the solution was purified by silica gel chromatography (eluent: 3% 2.0M NH3 in MeOH/DCM). The purified fractions were combined and concentrated under reduced pressure to give the final compound as white foam (0.06 g, 18%). ES MS 626.3 (M+H)

reactant | 2-amino-3-(4-chloro-phenyl)-1-[4-(2-[1,2,4]triazol-1-ylmethyl-phenyl)-piperazin-1-yl]-propan-1-one trifluoroacetyl carboxylate salt | 0.55 mmol, 0.30 g | FC(C(=O)C(=O)O)(F)F.NC(C(=O)N1CCN(CC1)C1=C(C=CC=C1)CN1N=CN=C1)CC1=CC=C(C=C1)Cl
reactant | (2-isopropyl-2,3-dihydro-1H-isoindol-1-yl)-acetic acid | 0.55 mmol, 0.12 g | C(C)(C)N1C(C2=CC=CC=C2C1)CC(=O)O | C13H17NO2
reactant | HATU | 0.55 mmol, 0.21 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.13 mmol, 0.19 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (R)-N-{1-(4-Chlorobenzyl)-2-oxo-2-[4-(2-([1,2,4]triazol-1-yl)methylphenyl)-piperazin-1-yl]-ethyl}-2-(2-isopropyl-2,3-dihydro-1H-isoindol-1-yl)-acetamide | 0.06 g, 18% | ClC1=CC=C(CC(C(N2CCN(CC2)C2=C(C=CC=C2)CN2N=CN=C2)=O)NC(C[C@H]2N(CC3=CC=CC=C23)C(C)C)=O)C=C1 | C35H40ClN7O2
